US08097732B2
5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-(1,3-dithiolan-2-yl)-1H-pyrazole-3-carbonitrile-ethoxyethylene (1:1) (compound 1-5)
To 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-(1,3-dithiolan-2-yl)-1H-pyrazole-3-carbonitrile (0.30 g, 0.71 mmol) in triethyl orthoformate (4.45 g, 29.70 mmol) was added p-toluenesulfonic acid (18 mg). The resulting mixture was heated up to 100 C for 1.5 hr. It was then cooled and then concentrated. The resulting viscous liquid was diluted with dichloromethane (20 mL). The organic layer was washed with saturated sodium bicarbonate, brine, and then dried over sodium sulfate to provide, upon concentration, a yellow oil (0.35 g, 0.72 mmol); 19F-NMR: −63.698.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-(1,3-dithiolan-2-yl)-1H-pyrazole-3-carbonitrile | 0.71 mmol, 0.30 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1SCCS1 | C14H9Cl2F3N4S2
reactant | triethyl orthoformate | 29.70 mmol, 4.45 g | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 18 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-(1,3-dithiolan-2-yl)-1H-pyrazole-3-carbonitrile ethoxyethylene | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1SCCS1.C(C)OC=C | InChI=1S/C14H9Cl2F3N4S2.C4H8O/c15-7-3-6(14(17,18)19)4-8(16)11(7)23-12(21)10(9(5-20)22-23)13-24-1-2-25-13;1-3-5-4-2/h3-4,13H,1-2,21H2;3H,1,4H2,2H3
